US06756513B2
Preparation of 1-chloro-1-phenylethane
Using a procedure analogous to that of Example 1, 100 g (0.82 mol) of 1-phenylethane-1-ol is reacted with 97.6 g (0.529 mol) of cyanuric chloride over a period of 14 hours at a reaction temperature of 90° C. After phase separation, treatment with sodium hydroxide and purification by distillation, 1-chloro-1-phenylethane having a purity of>99% and containing<0.3% of isomeric alkyl chlorides is obtained.

reactant | 1-phenylethane-1-ol | 0.82 mol, 100 g | C1(=CC=CC=C1)C(C)O | C8H10O
reactant | cyanuric chloride | 0.529 mol, 97.6 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | 1-chloro-1-phenylethane | ClC(C)C1=CC=CC=C1 | C8H9Cl
